Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4](\[H:5])(=[C:6](/[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],1.1844032315100002
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:12]([H:13])([H:14])[H:15],0.49460196747
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([C:7])([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:8][H:9],6.58515735721
[C:9]=[C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-3.3308480694
[O:1]=[C:2]=[C:4]([H:3])[H:8].[O:5]=[C:6][H:7]>>[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[H:8],-0.8897305504299999
[C:5]([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-0.553111133151
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.0293203719
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],3.8878851915400015
[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[O:4])[C:11]([H:12])[H:13],3.20547415992
[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.7705874854
[H:1][O:2]/[C:3]([O:4][C:5][H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.2062962025
[C:1]#[C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C:8]1([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],-0.15107340524
[C:4]12[C:5]([H:6])[C@@:7]1([H:8])[C:9]2([H:10])[H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11],-5.8240564098800025
[O:1]([C:2]([H:3])[C:5]([H:4])([H:6])[H:12])[H:8].[O:7]=[C:9]([H:10])[H:11]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-0.53887858352
[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.7623715774200002
[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:13]([H:14])([H:15])[H:16],4.57690776517
[H:1][C:2]#[C:3][C:4][C:5]([H:6])[H:7]>>[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]#[C:3],5.72387848105
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2]#[C:3][H:4],5.36072519286
[H:10].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.489313418459999
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][H:8]>>[C:6]#[C:7][H:8].[O:1]=[C:2]([H:3])[C:4]#[C:5],7.418677887819999
[H:1][O:2]/[C:3]=[C:4](/[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3],5.27488329577
[H:1][O:2][C@@:3]([H:4])([C:5]1[C:6][O:7]1)[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C@:3]([H:4])([C:5]=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11],-2.30454860522
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.83851298886
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],4.9789248337
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:12]([H:13])[H:14],4.6121123504
[H:1][C:2][C@@:3]1([H:4])[O:5][C:6]=[C:7]([H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:9]([C:7](=[C:6]=[O:5])[H:8])([H:10])[H:11],-3.30037215409
[H:13].[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.96310210528
[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12].[H:4]>>[H:1][C:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-0.589917723416
[C:8]#[C:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.02922801078
